US08030337B2
N-[2-[2-(Methylthio)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl]acetamide
N-[2-(2-Mercapto-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide (108 mg, 0.391 mmol) was dissolved in N,N-dimethylformamide (4 mL), iodomethane (48.6 μL, 0.782 mmol) and potassium carbonate (59.4 mg, 0.430 mmol) were added, and the mixture was stirred at room temperature for 15 min. The reaction solution was diluted with diethyl ether, washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (81.2 mg, yield 72%).

reactant | N-[2-(2-Mercapto-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 0.391 mmol, 108 mg | SC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C14H16N2O2S
reactant | iodomethane | 0.782 mmol, 48.6 μL | IC | CH3I
reactant | potassium carbonate | 0.430 mmol, 59.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[2-[2-(Methylthio)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl]acetamide | 81.2 mg, yield 72% | CSC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C15H18N2O2S
